US04536504
In 50 ml of acetone was dissolved 20.0 g (85.4 mmol) of isopropyl 5-fluoro-6-hydroxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate, and 8.78 g (111.0 mmol) of pyridine and 8.65 g (93.9 mmol) of acetic anhydride were added to the solution, followed by stirring under ice-cooling for 3 hours and subsequently at room temperature for 16 hours. The solvent was disttiled off under reduced pressure, and the acetylated compound, which precipitates after the addition of water, was recovered by filtration, washed with water and dried. One-half its amount and 5.70 g (51.2 mmol) of (Z)-furfuraldoxime were dissolved in 30 ml of pyridineacetone (pyridine:acetone=2.1), and the solution was stirred at 60° C. for 15 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography with hexane-ethyl acetate changing gradually the mixing ratio from (9:1) to (1:2) to yield 5.5 g of 5-fluoro-6-[(Z)-furfurylideneaminooxy]-5-isopropyloxycarbonyl-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine. m.p. 131°-134° C.

reactant | isopropyl 5-fluoro-6-hydroxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | 85.4 mmol, 20.0 g | FC1(C(NC(NC1O)=O)=O)C(=O)OC(C)C | C8H11FN2O5
reactant | pyridine | 111.0 mmol, 8.78 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 93.9 mmol, 8.65 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | (Z)-furfuraldoxime | 51.2 mmol, 5.70 g | C(/C1=CC=CO1)=N/O | C5H5NO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 5-fluoro-6-[(Z)-furfurylideneaminooxy]-5-isopropyloxycarbonyl-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine | 5.5 g | FC1(C(NC(NC1O\N=C/C1=CC=CO1)=O)=O)C(=O)OC(C)C | C13H14FN3O6
